US05064844
4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl) 2H-1,2,3-triazole (2.9 g) was added portionwise to a stirred mixture of ethanethiol (0.5 g) and sodium hydride (0.25 g) in tetrahydrofuran (30 ml) and the mixture stirred at room temperature for 3 hours. The mixture was added to water and extracted with ether. The extract was worked up to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-(ethylthiomethyl)-2H-1,2,3-triazole, m.p. 53°-54°. (Compound 19)

reactant | 4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl) 2H-1,2,3-triazole | 2.9 g | BrCC1=NN(N=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H5BrCl2F3N3
reactant | ethanethiol | 0.5 g | C(C)S | C2H6S
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-(ethylthiomethyl)-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CSCC | C12H10Cl2F3N3S
